US07371765B2
Using an analogous procedure to that described for the preparation of the starting material in Example 15 (see note a) above), 4-chloro-6-cyano-7-hydroxyquinoline (300 mg, 1.46 mmol), (prepared as described for the starting material in Example 1), was reacted with 3-(1,2,3-triazol-1-yl)propan-1-ol (242 mg, 1.9 mmol) to give 4chloro-6-cyano-7-(3-(1,2,3-triazol-1-yl)propoxy)quinoline (349 mg, 86%).

reactant | 4-chloro-6-cyano-7-hydroxyquinoline | 1.46 mmol, 300 mg | ClC1=CC=NC2=CC(=C(C=C12)C#N)O | C10H5ClN2O
reactant | 3-(1,2,3-triazol-1-yl)propan-1-ol | 1.9 mmol, 242 mg | N1(N=NC=C1)CCCO | C5H9N3O
product | 4chloro-6-cyano-7-(3-(1,2,3-triazol-1-yl)propoxy)quinoline | 349 mg, 86% | ClC1=CC=NC2=CC(=C(C=C12)C#N)OCCCN1N=NC=C1 | C15H12ClN5O
